US06313137B1
Synthesis of ethyl 8-amino-6-(aminocarbonyl)-2-methylimidazo[1,2-a]pyridine-3-carboxylate
5,6-Diaminonicotinamide (2.0 g, 13.4 mmol), ethyl-2-chloroacetoacetate (2.38 g, 14.4 mmol) and ethanol (40 ml) were refluxed for 20 h. The precipitate was isolated by filtration and washed with ethanol and diethyl ether. The solids were suspended in water, basified with a sodium hydroxide solution and isolated by filtration. Washing the solids with water and diethyl ether gave 0.42 g (12%) of the desired product.

reactant | 5,6-Diaminonicotinamide | 13.4 mmol, 2.0 g | NC=1C(=NC=C(C(=O)N)C1)N | C6H8N4O
reactant | ethyl-2-chloroacetoacetate | 14.4 mmol, 2.38 g | C(C)OC(C(C(=O)C)Cl)=O | C6H9ClO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 8-amino-6-(aminocarbonyl)-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 0.42 g, 12% | NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C(=O)OCC | C12H14N4O3
